US03959322
Add dl-17α-ethyl-3-methoxyestra-1,3,5(10)-trien-17-ol (2 g) in ether (55 ml) to distlled liquid ammonia (180 ml), and add lithium (1 g) to the stirred solution. After 45 minutes add ethanol (15 ml) and ether (15 ml) dropwise followed by ammonium chloride and water. Extract with ether, wash, dry, evaporate, and recrystallize the residue from ether to obtain dl-17α-ethyl-3-methoxyestra-2,5(10)-dien-17-ol (1.4 g), m.p. 131°-134°.

reactant | 17α-ethyl-3-methoxyestra-1,3,5(10)-trien-17-ol | 2 g | C(C)[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)O | C21H30O2
reactant | ammonia | 180 ml | N | H3N
reactant | lithium | 1 g | [Li] | Li
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 55 ml | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | water | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 17α-ethyl-3-methoxyestra-2,5(10)-dien-17-ol | 1.4 g | C(C)[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC=3CC(=CCC3[C@H]1CC2)OC)O | C21H32O2
